US08802713B2
Then, 1.50 g of 1-acetyl-2-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}pyrazolidine-3,5-dione was dissolved in 50 mL of dichloromethane, 5 mL of methanol was added, and 2.1 mL of a diethyl ether solution (2.0 mol/L) of trimethylsilyldiazomethane was added under cooling with ice, followed by stirring at room temperature for 5 hours. Then, the solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (developing solvent ethyl acetate:hexane=1:2) to obtain 0.69 g of 2-acetyl-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-methoxypyrazol-3-one.

reactant | 1-acetyl-2-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}pyrazolidine-3,5-dione | 1.50 g | C(C)(=O)N1N(C(CC1=O)=O)C1=C(C=C(C(=C1)SCC(F)(F)F)C)F | C14H12F4N2O3S
reactant | methanol | 5 mL | CO | CH4O
reactant | diethyl ether | 2.0 mol/L, 2.1 mL | C(C)OCC | C4H10O
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-acetyl-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-methoxypyrazol-3-one | 0.69 g | C(C)(=O)N1N(C(=CC1=O)OC)C1=C(C=C(C(=C1)SCC(F)(F)F)C)F | C15H14F4N2O3S
